US04804661
4.7 g of isatic acid anhydride are heated to 80°-90° in 60 ml of absolute dioxan. A solution of 6.3 g of 1-[2-(4-chlorophenyl)-ethyl]-piperazine in 70 ml of absolute dioxan is added thereto. The whole is boiled under reflux for 1 hour and concentrated to dryness by evaporation in vacuo, and then the viscous oil is chromatographed on silica gel. The methylene chloride/acetone (1:1) eluate is concentrated by evaporation and dissolved in methanol, and the resulting 1-[2-(4-chlorophenyl)-ethyl]-4-(2-aminobenzoyl)-piperazine is converted into the hydrochloride using methanolic hydrochloric acid. 1-[2-(4-chlorophenyl)-ethyl]-4-(2-aminobenzoyl)-piperazine hydrochloride having a melting point of 238°-240° is obtained.

reactant | isatic acid anhydride | 4.7 g | C=1(C(N)=CC=CC1)C(=O)C(=O)OC(C(C=1C(N)=CC=CC1)=O)=O | C16H12N2O5
reactant | 1-[2-(4-chlorophenyl)-ethyl]-piperazine | 6.3 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | dioxan | 60 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 70 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(2-aminobenzoyl)-piperazine hydrochloride | Cl.ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=C(C=CC=C1)N)=O | InChI=1S/C19H22ClN3O.ClH/c20-16-7-5-15(6-8-16)9-10-22-11-13-23(14-12-22)19(24)17-3-1-2-4-18(17)21;/h1-8H,9-14,21H2;1H
